US04230596
(1) Synthesis of 4-hydroxy-3-methyl-pentanophenone (based on the Friedel-Craft reaction)
108 g (1 mole) of orthocresol are added to a liter of nitrobenzene. The solution is cooled to 0° C. and 280 g (2.1 moles) of powdered aluminium chloride are added over a period of one hour (while stirring). While still stirring and at 0° C., 120.5 g (1 mole) of valeryl chloride are added over a period of one hour 30 minutes. The temperature of the solution is left for about 12 hours at this temperature. The solution is then poured into a mixture of 1 kg of ice and 500 ml of 37% hydrochloric acid. The mixture is stirred for one hour and the organic phase is decanted. It is whashed with 5 N hydrochloric acid and then with deionized water.

reactant | orthocresol | 1 mole, 108 g | C1(=CC=CC=C1O)C | C7H8O
reactant | nitrobenzene | a liter | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aluminium chloride | 2.1 moles, 280 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | valeryl chloride | 1 mole, 120.5 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | hydrochloric acid | 500 ml | Cl | ClH
product | 4-hydroxy-3-methyl-pentanophenone | OC(C(CC(=O)C1=CC=CC=C1)C)C | C12H16O2
